US08735436B2
Preparation of 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)butanoic acid
tert-Butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate (19.6 g, 45.5 mmol) was dissolved in dichloromethane (200 mL) and placed under nitrogen. Trifluoroacetic acid (50 mL) was added and the reaction mixture was stirred at room temperature for one hour. Water was added and the aqueous phase was extracted twice with dichloromethane. The combined organic extract was washed with brine, dried (Na2SO4), filtered and concentrated. The residue was subjected to flash chromatography on silica gel using increasingly polar mixtures of heptane, ethyl acetate and formic acid (90:10:1→80:20:1) as eluent. Concentration of the appropriate fractions afforded 12.1 g (71% yield) of the title compound as an oil. 1H-NMR (300 MHz, CDCl3): −0.90-1.00 (m, 6H), 1.50 (m, 2H), 1.70 (m, 2H), 1.80 (m, 2H), 2.10 (m, 4H), 2.80-2.90 (m, 8H), 3.50 (m, 1H), 3.60 (m, 1H), 3.75 (t, 1H), 5.30-5.50 (m, 10H); MS (electro spray): 373.2 [M−H]−.

reactant | tert-Butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate | 45.5 mmol, 19.6 g | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)OC(C)(C)C)CC | C28H46O3
reactant | Trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | O | H2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaenyloxy)butanoic acid | 12.1 g, 71% yield | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)O)CC | C24H38O3
